datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)c(F)c1.O=C/C(O)=C/[O-:10]>>CC(C(=O)[O-:21])c1ccc(-c2ccccc2)c(F)c1.O=C/C(O)=C/[O:10][H:20] 10=20;20,21=21",
"CC(C[NH2:10])C(N)=NO.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C[NH2+:10][H:20])C(N)=NO.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[NH2+]C(C)C(=O)[O-:10].NNC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(=O)OCc1ccccc1>>CC[NH2+]C(C)C(=O)[O:10][H:20].NNC(=O)C(Cc1c[nH]c[n:21]1)NC(=O)OCc1ccccc1 10=20;20,21=21",
"Oc1onc2c1CC[NH:10]CC2.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>Oc1onc2c1CC[NH+:10]([H:20])CC2.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCC[N:10]1CCCCC1.Cc1cc(C)c([O:21][H:20])c([N+](=O)[O-])c1>>CCCC[N+:10]1([H:20])CCCCC1.Cc1cc(C)c([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"C[N:10]1CCC2Cc3ccc(O)c(O)c3C3CCCC1C23.NC(=[NH2+])Nc1nccc(-c2csc(N)[n+:21]2[H:20])n1>>C[N+:10]1([H:20])CCC2Cc3ccc(O)c(O)c3C3CCCC1C23.NC(=[NH2+])Nc1nccc(-c2csc(N)[n:21]2)n1 10=20;20,21=21",
"NC(=[NH2+])NOCC(=O)[O-:10].O=C([O-])[C@@H]1CC[C@H](C(=O)[O:21][H:20])C1>>NC(=[NH2+])NOCC(=O)[O:10][H:20].O=C([O-])[C@@H]1CC[C@H](C(=O)[O-:21])C1 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc[n:10]c2ccccc12.Cc1ncnc2nc[n:21]([H:20])c12>>CC[NH+](CC)CCNc1cc[n+:10]([H:20])c2ccccc12.Cc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"CC(C)=NNC1CC[N+:21](C)([H:20])CC1.c1cc2c(cc1[NH2:10])CCC2>>CC(C)=NNC1CC[N:21](C)CC1.c1cc2c(cc1[NH2+:10][H:20])CCC2 10=20;20,21=21",
"O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCCCC[N+:21]1([H:20])CCOCC1.c1ccc(-c2c[nH]c[n:10]2)cc1>>O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCCCC[N:21]1CCOCC1.c1ccc(-c2c[nH]c[n+:10]2[H:20])cc1 10=20;20,21=21",
"CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O-:10])[NH2+]C[C@H]21.O=C1Nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N:21]1[H:20]>>CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O:10][H:20])[NH2+]C[C@H]21.O=C1Nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N-:21]1 10=20;20,21=21",
"COc1cc(O)ccc1/C(c1ccccc1)=[NH+:21]\[H:20].COc1ccc(-c2c[n:10]c(-c3ccc(OC)cc3)o2)cc1>>COc1cc(O)ccc1C(c1ccccc1)=[NH:21].COc1ccc(-c2c[n+:10]([H:20])c(-c3ccc(OC)cc3)o2)cc1 10=20;20,21=21",
"COC(=O)c1ccccc1-n1nc([O:21][H:20])cc1C.OCc1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1>>COC(=O)c1ccccc1-n1nc([O-:21])cc1C.OCc1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCC[NH:10]CC(=O)O.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC[NH+:10](CC(=O)O)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1ccc(OC(=O)CCC[N:10](C)C)cc1.Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1-c1ccccc1>>Cc1ccc(OC(=O)CCC[N+:10](C)(C)[H:20])cc1.Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1-c1ccccc1 10=20;20,21=21",
"NCC[NH:10]CCCO.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>NCC[NH+:10](CCCO)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[N+:21]1([H:20])CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Cc1cc[n:10]c(N)n1>>C[N:21]1CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Cc1cc[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].[OH-:10]>>C[C-:21](C1=CC=CC=C1)[N+](=O)[O-].[OH:10][H:20] 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1ccc([S:21][H:20])c([N+](=O)[O-])c1>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1ccc([S-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CSCc1cccc(CSC)[n:10]1.Cc1ccc([O:21][H:20])c2[n+]1CCS2>>CSCc1cccc(CSC)[n+:10]1[H:20].Cc1ccc([O-:21])c2[n+]1CCS2 10=20;20,21=21",
"O=C(c1cccc(F)c1)[O-:10].c1ccc2c3c([nH]c2c1)C[NH+:21]([H:20])CC3>>O=C(c1cccc(F)c1)[O:10][H:20].c1ccc2c3c([nH]c2c1)C[NH:21]CC3 10=20;20,21=21",
"C/C(c1ccccc1O)=[N:10]\c1ccccc1O.S=C[N:21](c1ccc(Cl)cc1)[H:20]>>C/C(c1ccccc1O)=[N+:10](\c1ccccc1O)[H:20].S=C[N-:21]c1ccc(Cl)cc1 10=20;20,21=21",
"CC[NH:10]CC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](CC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1c(Cl)c(C)[n:10]n1C.O=[N+]([O-])c1ccc([NH2+:21][H:20])cc1>>Cc1c(Cl)c(C)[n+:10]([H:20])n1C.O=[N+]([O-])c1ccc([NH2:21])cc1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CCC(=O)[O-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNCCNCC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+](C)Cc1c(O)c(O)c([O-:10])c(C[NH+](C)C)c1C(=O)[O-].[NH3+]C/C=C\C(=O)[O:21][H:20]>>C[NH+](C)Cc1c(O)c(O)c([O:10][H:20])c(C[NH+](C)C)c1C(=O)[O-].[NH3+]C/C=C\C(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCC[NH2+:21][H:20].NC(=O)CCCc1cccc[n:10]1>>CCCCCCCCCCCCCCCCC[NH2:21].NC(=O)CCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1[nH]c2ccccc2c1C(=O)[O-:10].Cc1ccn(-c2cccc[n+:21]2[H:20])n1>>Cc1[nH]c2ccccc2c1C(=O)[O:10][H:20].Cc1ccn(-c2cccc[n:21]2)n1 10=20;20,21=21",
